US04529602
1.31 g of sulfodehydroabietic acid, 0.472 g of silver carbonate and 0.93 g of ethyl L-glutaminate hydrochloride are treated in the same manner as described in Example 29, whereby 0.8 g of sulfodehydroabietic acid ethyl L-glutaminate salt monohydrate is obtained.

reactant | ethyl L-glutaminate hydrochloride | 0.93 g | Cl.N[C@@H](CCC(N)=O)C(=O)OCC
catalyst | silver carbonate | 0.472 g | C([O-])([O-])=O.[Ag+2]
product | ethyl L-glutaminate | 0.8 g | N[C@@H](CCC(N)=O)C(=O)OCC | C7H14N2O3
